US06846916B2
0.06 mol (16.93 g) of oleic acid (Fluka Chemika, Switzerland) was weighed into a three-necked, round-bottom flask equipped with a magnetic stirrer, stopcocks, a vacuum take-off line leading to a liquid nitrogen cold-trap and a vacuum pump. 0.01 mol (6.79 g) of sucrose octaacetate, SOA, (Fluka Chemika, Switzerland) was added and the mixture was heated to 80-95 degree C. in an oil bath with continuous stirring until a homogenous solution was formed. 0.01% w/w tosylic acid (or alkyl sulfonic acid polysiloxane, or BF3.OEt2) was then added. Reaction temperature was then reduced to between 60-75 degree C. and 5-10 Torr pressure was applied. The reaction was continued for 3 to 6 hours. The product was taken up in 250 ml of iso-propanol, neutralized with aqueous 1M NaHCO3, decolourised with 2.0 g activated charcoal, and filtered. Iso-propanol was then removed by vacuum distillation. Unreacted oleic acid was extracted with 50×4 ml hexane and kept for reuse. The sucrose fatty ester was redissolved in warm iso-propanol to form 30-40% w/v solution, cool to −4 to 0 degree C. and filtered to give unreacted SOA as precipitate. The filtrate iso-propanol was then distilled off to give 70-85% pure acetylated sucrose oleate. Repeated hexane extraction and SOA precipitation gave 90-95% pure product (87% yield).

reactant | oleic acid | 0.06 mol, 16.93 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | sucrose octaacetate | 0.01 mol, 6.79 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)COC(=O)C)OC(=O)C)OC(=O)C)COC(=O)C)OC(=O)C)OC(=O)C)OC(=O)C | C28H38O19
reactant | tosylic acid | S(=O)(=O)(O)C1=CC=C(C)C=C1 | C7H8O3S
reactant | BF3.OEt2 | B(F)(F)F.CCOCC
reactant | NaHCO3 | 1M | C(=O)(O)[O-].[Na+]
reactant | charcoal | C | CH4
solvent | iso-propanol | 250 ml | C(C)(C)O | C3H8O
product | sucrose oleate | 70-85% | CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@@H]1[C@H]([C@@H]([C@](O1)(CO)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O | C30H54O12
